US06897231B2
C. {3-(4-Fluorophenyl)(1H-indazol-5-yl)}-N-(3-morpholin-4-ylpropyl)carboxamide
To a flask containing a solution of 4-(3-Aminopropyl)-morpholine (117 μl, 0.79 mmol) in pyridine (1 mL) was added 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride (230 mg, 0.72 mmol) dissolved in pyridine (5 mL). The reaction was allowed to stir under a nitrogen atmosphere overnight. The reaction was not complete so an additional equivalent of 4-(3-Aminopropyl)-morpholine (100 μl, 0.72 mmol) was added. The reaction was allowed to stir at room temperature overnight. LCMS showed the product formation. Solvent was removed by rotary evaporation. The reaction was treated with water and the product was extracted with ethyl acetate and dichloromethane. The organic layers were combined and washed with saturated aqueous sodium carbonate solution and brine. The organic layer was dried with magnesium sulfate, filtered and concentrated to yield the product. This was purified by semi-preparative HPLC. The product was washed with a sodium bicarbonate solution to remove the TFA salt to yield the title compound (37.3 mg, 13.5% yield). 1H NMR (DMSO-d6) δ 8.6 (m, 1H), 8.5 (m, 1H), 8.0 (m, 2H), 7.9 (m, 1H), 7.7 (m, 1H), 7.4 (m, 2H), 3.3 (m, 4H), 3.1 (m, 2H), 2.3 (m, 6H), 1.6 (m, 2H) ES-MS m/z 383 [M+1]+.

reactant | 4-(3-Aminopropyl)-morpholine | 0.79 mmol, 117 μl | NCCCN1CCOCC1 | C7H16N2O
reactant | 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride | 0.72 mmol, 230 mg | C(C)(=O)N1N=C(C2=CC(=CC=C12)C(=O)Cl)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | 4-(3-Aminopropyl)-morpholine | 0.72 mmol, 100 μl | NCCCN1CCOCC1 | C7H16N2O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | {3-(4-Fluorophenyl)(1H-indazol-5-yl)}-N-(3-morpholin-4-ylpropyl)carboxamide | 37.3 mg, 13.5% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)NCCCN1CCOCC1 | C21H23FN4O2
